Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]1=[C:5]([N:6]=[O:3])[C:4]1([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],65.0118244737644
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:5]([N:3]([C:4]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])=[O:6])([H:11])[H:12])([H:8])([H:9])[H:10],108.17188818333099
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C+:2]=[C:3]([H:10])[C@@:4]2([H:11])[N-:5][C@@:6]12[H:13].[H:9][H:12],113.630549350339
[C:1]1([H:9])=[O+:7][C-:6]([H:17])[C:5]([H:15])([H:16])[C@@:4]2([H:14])[C@:2]1([H:11])[C:3]2([H:12])[H:13].[H:8][H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],41.431764577810895
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@:4]([O:5][H:12])([H:11])[C:6]1>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12],2.3176568116073994
[N:1](=[C:2])[H:8].[O:3]=[C:4]([O:5][C:6]#[N:7])[H:9]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],17.6122776419121
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:3]([C:4]([H:13])([H:14])[H:15])=[O+:5][C:6]([H:16])([H:17])[H:18].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],70.0373333324455
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N-:3]=[N+:4]=[O:5].[N:1](=[c:2]1[c:6]([H:9])[c:7]1[H:10])[H:8],123.913166679565
[N:1](=[C:2](\[O:3][H:9])[C:5]1=[C:4]([H:10])[C:6]([H:11])([H:12])[N:7]1[H:13])\[H:8]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],80.01011429169297
[C:5]=[N:6][H:8].[O:1]([C-:2]=[C:3]=[C+:4][H:9])[H:7]>>[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7],4.435262083819495
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]=[C:7]1[H:16])([H:8])([H:9])[H:10].[H:15][H:17],100.236777958843
[C:1](/[N:2]=[C:3](/[O:4][C:7]([C:5](=[O:6])[H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10],58.479786238199296
[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O:3][H:10])([O:5][H:13])[H:9])([H:6])([H:7])[H:8].[C:4]([H:11])[H:12],104.515469662099
[C-:3]#[O+:4].[C:1]([C:2]([H:8])([H:10])[H:11])([C:5]([O:6][H:14])([H:12])[H:13])([H:7])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],111.8276668354851
[C+:4](=[C:5]=[N-:6])[H:9].[N:1](=[C:2](/[O:3][H:10])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7],0.9796436514395026
[C:6](=[O:7])([H:13])[H:14].[N:1]([C:2](=[O:3])[H:15])([H:8])[H:9].[N:4](=[C:5]([H:11])[H:12])[H:10]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],45.8942546146743
[N:1]1([H:7])[C:2]([H:8])=[O+:3][C:4]([H:9])([H:10])[C-:5]1[O:6][H:11]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],30.579770136556213
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C+:2]([O:3][H:11])=[C:6]=[N-:7].[C:1]([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])([H:8])([H:9])[H:10],104.17966887396601
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[C-:4]#[O+:5].[N-:1]([C:2]#[C:3][N+:7]#[N:6])[H:8],52.5141711633541
[C:1]1([H:7])([H:9])[C@:2]([C:3](=[O:4])[H:11])([H:10])[C:5][N:6]1[H:8]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],55.1620690912158
[O:1]([C:2]([C-:3]=[C:4]([C:5]([C:6]#[O+:7])([H:11])[H:12])[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],15.0707071328182
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1]1([H:9])=[C:7]([H:17])[C@:6]2([H:16])[C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:8])([H:13])[C:5]2([H:14])[H:15],81.8233431207247
[C-:6]#[O+:7].[C:1]([C:2](/[C:3](=[C:4](\[C:5]([H:16])([H:17])[H:18])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:19]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],34.617496631689406
[C:1]([O:2][C:3](/[N:4]=[N:5]/[H:11])=[C:7]=[C:6]([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],15.57929554719999
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[C:7](\[C:4]1([H:12])[C:5]([H:13])([H:14])[C:6]1([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10],67.35009970213329
